US08703805B2
The crude 4-bromo-furan-2-carboxylic acid (30 g, 157 mmol) was placed in a 500 mL round bottom flask equipped with a magnetic stirring bar and a reflux condenser, and the flask was alternately evacuated and filled with nitrogen several times. The solids were suspended in benzene (400 mL), treated with SOCl2 (60 mL, 823 mmol) and the mixture was heated to reflux in a heating mantle. Dark tarry materials form on the walls of the reaction flask during the course of the reaction. After ˜135 minutes at reflux a sample of the reaction was concentrated under reduced pressure and analyzed by 13C NMR. The NMR was quite clean and showed the reaction to be complete. [13C-NMR (400 MHz, CDCl3): δ 154.9, 147.6, 146.3, 126.0, 102.5] After ˜3 hours at reflux the reaction mixture was allowed to cool to ambient temperature. The pale brown supernatant solution of the acid chloride was decanted from the dark solids, and the solids were rinsed with additional benzene. The benzene solutions were combined and concentrated under reduced pressure to afford 4-bromofuran-2-carbonyl chloride as a pale brown oil. This crude material was carried on to the amide formation without purification.

reactant | 4-bromo-furan-2-carboxylic acid | 157 mmol, 30 g | BrC=1C=C(OC1)C(=O)O | C5H3BrO3
reactant | SOCl2 | 823 mmol, 60 mL | O=S(Cl)Cl | Cl2OS
product | 4-bromofuran-2-carbonyl chloride | BrC=1C=C(OC1)C(=O)Cl | C5H2BrClO2
